US08039460B2
tert-Butyl (6S,9R)-6-(2,3-difluorophenyl)-3-(methoxymethyl)-6,7,8,9-tetrahydro-5H-imidazo[1,2-a]azepin-9-ylcarbamate
Sodium hydride (60% dispersion in mineral oil; 25.0 mg, 0.61 mmol) was added to a solution of tert-butyl (6S,9R)-6-(2,3-difluorophenyl)-3-(hydroxymethyl)-6,7,8,9-tetrahydro-5H-imidazo[1,2-a]azepin-9-ylcarbamate (160 mg, 0.41 mmol) and iodomethane (51.0 μL, 0.81 mmol) in tetrahydrofuran (2 mL) at 0° C. After 3 h, the reaction was quenched with water and the mixture was extracted with dichloromethane (3×). The organic layer was washed with water, saturated brine, dried over magnesium sulfate, filtered and concentrated. Purification by reverse phase HPLC (C-18, 95% water/acetonitrile→5% water/acetonitrile with 0.1% trifluoroacetic acid) gave the title compound (75 mg). MS 408.2 (M+1).

reactant | Sodium hydride | 0.61 mmol, 25.0 mg | [H-].[Na+]
reactant | tert-butyl (6S,9R)-6-(2,3-difluorophenyl)-3-(hydroxymethyl)-6,7,8,9-tetrahydro-5H-imidazo[1,2-a]azepin-9-ylcarbamate | 0.41 mmol, 160 mg | FC1=C(C=CC=C1F)[C@@H]1CC[C@H](C=2N(C1)C(=CN2)CO)NC(OC(C)(C)C)=O | C20H25F2N3O3
reactant | iodomethane | 0.81 mmol, 51.0 μL | IC | CH3I
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
product | tert-Butyl (6S,9R)-6-(2,3-difluorophenyl)-3-(methoxymethyl)-6,7,8,9-tetrahydro-5H-imidazo[1,2-a]azepin-9-ylcarbamate | 75 mg | FC1=C(C=CC=C1F)[C@@H]1CC[C@H](C=2N(C1)C(=CN2)COC)NC(OC(C)(C)C)=O | C21H27F2N3O3
